US09428444B2
Many patent and non-patent literature describe the use of an intermediate called Bis (p-anisyl)iodonium bromide in the preparation of Levothyroxine sodium. Hillmann (Z. Naturforch 1956; 11b:424-425) describes a process for the assembly of the biphenyl-ether system present in Levothyroxine, wherein a key coupling reaction is initiated between N-Acetyl 3,5-diiodo-L-tyrosine ethyl ester, derived from the stepwise protective conversion of amine as amide and acid as ester of 3,5 diido-L-tyrosine, and Bis (p-anisyl)iodonium bromide in the presence of copper metal or powder as a catalyst to afford (S)—N-acetyl-3,5-diiodo-4-p-methoxyphenoxyphenylalanine ethyl ester, with 87% yield. All the three protective groups in (S)—N-acetyl-3,5-diiodo-4-p-methoxyphenoxyphenylalanine ethyl ester, viz. acetamide, methyl ether, ethyl ester were cleaved using a mixture of Hydroiodic acid and Hydrobromic acid to give 3,5-Diiodothyronine. 3,5-Diiodothyronine on subsequent iodination with iodine gave L-thyroxine of an yield that corresponds to 92%.

reactant | acetamide | C(C)(=O)N | C2H5NO
reactant | methyl ether | COC | C2H6O
reactant | Hydroiodic acid | I | HI
reactant | Hydrobromic acid | Br | BrH
reactant | (S)—N-acetyl-3,5-diiodo-4-p-methoxyphenoxyphenylalanine ethyl ester | C(C)OC([C@@H](NC(C)=O)CC1=CC(=C(C(=C1)I)OC1=CC=C(C=C1)OC)I)=O | C20H21I2NO5
product | 3,5-Diiodothyronine | IC=1C=C(C[C@H](N)C(=O)O)C=C(C1OC1=CC=C(C=C1)O)I | C15H13I2NO4
